US03953500
To 2.3 g. of 4-(p-toluoyl)indan-1-carbonitrile is added 75 g. of polyphosphoric acid and the mixture is worked into a homogeneous solution by heating on a water bath at 90°C for 30 minutes and, then, on an oil bath at 120°-130°C for 30 minutes. Following the addition of water to decompose the polyphosphoric acid, the reaction mixture is extracted with ethyl acetate. The extract is washed with water, 5 % aqueous sodium hydrogen carbonate and water in the order mentioned and, then, dried. It is, then, treated with activated carbon and concentrated under reduced pressure. The resultant crystalline residue is recrystallized from a mixture of ethanol and ethyl acetate. The described procedure gives 4-(p-toluoyl)indan-1-carboxamide as crystals melting at 188°-191°C.

reactant | 4-(p-toluoyl)indan-1-carbonitrile | C1(=CC=C(C=C1)C(=O)C1=C2CCC(C2=CC=C1)C#N)C | C18H15NO
reactant | water | O | H2O
product | 4-(p-toluoyl)indan-1-carboxamide | C1(=CC=C(C=C1)C(=O)C1=C2CCC(C2=CC=C1)C(=O)N)C | C18H17NO2
